US07169927B2
5-Chloro-N-(6-fluoro-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)-1H-indole-2-carboxamide
Triethylamine (184 μL, 1.32 mmol), HOBt (89 mg, 0.66 mmol), 3-amino-6-fluoro-3,4-dihydro-2(1H)-quinolinone monohydrochloride (CAS Reg. No: 82420-54-0) (143 mg, 0.66 mmol), and EDAC (127 mg, 0.66 mmol) were added to a solution of 5-chloroindole-2-carboxylic acid (129 mg, 0.66 mmol) in anhydrous DMF (3.5 mL). The reaction was stirred at ambient temperature for approximately 16 h, and then poured into water (50 mL). This was stirred vigorously for about 10 mins. and filtered. The collected precipitate was washed with water and dried in vacuum at 40° C., to give the title compound (200 mg, 85%) as an amorphous solid.

reactant | Triethylamine | 1.32 mmol, 184 μL | C(C)N(CC)CC | C6H15N
reactant | HOBt | 0.66 mmol, 89 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-amino-6-fluoro-3,4-dihydro-2(1H)-quinolinone monohydrochloride | Cl.NC1C(NC2=CC=C(C=C2C1)F)=O
reactant | EDAC | 0.66 mmol, 127 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-chloroindole-2-carboxylic acid | 0.66 mmol, 129 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 5-Chloro-N-(6-fluoro-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)-1H-indole-2-carboxamide | 200 mg, 85% | ClC=1C=C2C=C(NC2=CC1)C(=O)NC1C(NC2=CC=C(C=C2C1)F)=O | C18H13ClFN3O2
